US08017611B2
Using analogous procedures to those described in Example 17, tert-butyl 4-[4-[5-amino-6-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-yl]pyrazol-1-yl]piperidine-1-carboxylate (100 mg) was reacted with TFA to give 3-(6-fluoro-1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyrazin-2-amine (46 mg). NMR Spectrum: (400 MHz, MeOD) 8.60 (s, 1H), 8.35 (s, 1H), 8.20 (s, 1H), 7.90 (dd, 1H), 7.60 (dd, 1H), 7.30 (dd, 1H), 4.20 (m, 1H), 3.70 (m, 1H), 3.30 (m, 2H), 2.50 (m, 4H); Mass spectrum: M+H+ 380

reactant | tert-butyl 4-[4-[5-amino-6-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-yl]pyrazol-1-yl]piperidine-1-carboxylate | 100 mg | NC=1N=CC(=NC1C=1OC2=C(N1)C=CC(=C2)F)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C24H26FN7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(6-fluoro-1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyrazin-2-amine | 46 mg | FC1=CC2=C(N=C(O2)C=2C(=NC=C(N2)C=2C=NN(C2)C2CCNCC2)N)C=C1 | C19H18FN7O
